US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-(4-hydroxyphenyl)benzamide
4'-Hydroxy-4-biphenylcarboxylic acid (0.40 g, 1.9 mmol) was dissolved in thionyl chloride (10 mL) and heated at reflux for 1 h. The excess of thionyl chloride was evaporated in vacuo, the residue was treated with toluene and again the solvent was removed in vacuo. Crude acid chloride (120 mg, 0.51 mmol) was dissolved in methylene chloride (5 mL) and added dropwise to an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.49 mmol) and triethylamine (100 μL, 0.74 mmol) in methylene chloride (20 mL). After the addition the reaction was allowed to stir at ambient temperature for 15 min and was then washed with water. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:6:0.5) as the eluent. Yield: 95 mg (44%) of the title compound as white crystals: mp 261-262° C.; EIMS (70 eV) m/z (relative intensity) 441 (2, M+).

reactant | 4'-Hydroxy-4-biphenylcarboxylic acid | 1.9 mmol, 0.40 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.49 mmol, 120 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.74 mmol, 100 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-(4-hydroxyphenyl)benzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)C1=CC=C(C=C1)O)=O | C28H31N3O2
